US07888364B2
50 mg of 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoic acid was coupled to 2-methoxy-5-aminopyridine via Procedure G. The product was purified on reverse phase HPLC to yield N1-(4-chloro-3-(pyridin-2-yl)phenyl)-N4-(6-methoxypyridin-3-yl)terephthalamide. MS (Q1) 459 (M)+.

reactant | 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzoic acid | 50 mg | ClC1=C(C=C(C=C1)NC(=O)C1=CC=C(C(=O)O)C=C1)C1=NC=CC=C1 | C19H13ClN2O3
reactant | 2-methoxy-5-aminopyridine | COC1=NC=C(C=C1)N | C6H8N2O
product | N1-(4-chloro-3-(pyridin-2-yl)phenyl)-N4-(6-methoxypyridin-3-yl)terephthalamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C(=O)NC=2C=NC(=CC2)OC)C=C1)=O)C1=NC=CC=C1 | C25H19ClN4O3
